US07163937B2
Examples 2t and 2u, Step 6: A sample of benzyl (S)-2-oxo-1-((1S,2R)-4-oxo-2-propylcyclohexyl)pyrrolidin-3-ylcarbamate (114 mg) was dissolved in Ti(OiPr)4 (1.5 mL, 5.0 mmol) and tert-butylamine (0.14 mL, 1.8 mmol). The resultant solution was stirred at RT for 3 h before being cooled to 0° C. and charged successively with MeOH (2 mL) and NaBH4 (22.8 mg, 0.6 mmol). The mixture was stirred for 90 min while the solution slowly warmed to RT. The solution was diluted with methylene chloride (10 mL) and 0.5 N NaOH was added. The resultant suspension was filtered through a pad of Celite with EtOAc washings and the filtrate was dried, filtered, and concentrated in vacuo to afford benzyl (S)-1-((1S,2R,4R/S)-4-(tert-butylamino)-2-propylcyclohexyl)-2-oxopyrrolidin-3-ylcarbamate as an inseparable mixture of diastereomers. MS found: (M+H)+=430.5.

reactant | benzyl (S)-2-oxo-1-((1S,2R)-4-oxo-2-propylcyclohexyl)pyrrolidin-3-ylcarbamate | 114 mg | O=C1N(CC[C@@H]1NC(OCC1=CC=CC=C1)=O)[C@@H]1[C@@H](CC(CC1)=O)CCC | C21H28N2O4
reactant | tert-butylamine | 1.8 mmol, 0.14 mL | C(C)(C)(C)N | C4H11N
reactant | MeOH | 2 mL | CO | CH4O
reactant | NaBH4 | 0.6 mmol, 22.8 mg | [BH4-].[Na+]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | NaOH | 0.5 N | [OH-].[Na+]
catalyst | Ti(OiPr)4 | 5.0 mmol, 1.5 mL | CC(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
product | benzyl (S)-1-((1S,2R,4R/S)-4-(tert-butylamino)-2-propylcyclohexyl)-2-oxopyrrolidin-3-ylcarbamate | C(C)(C)(C)NC1C[C@H]([C@H](CC1)N1C([C@H](CC1)NC(OCC1=CC=CC=C1)=O)=O)CCC | C25H39N3O3
